US07601843B2
N-[1-[2-[1-[2-(1-Oxo-2-isoindolinyl)ethyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide
After adding methyl 2-formylbenzoate (254 mg, 1.55 mmol), acetic acid (89 μL, 1.55 mmol) and sodium triacetoxyborohydride (265 mg, 1.25 mmol) to a solution of N-[1-[2-[1-(2-aminoethyl)cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide (226 mg, 0.52 mmol) in 1,2-dichloroethane (3 mL), the mixture was stirred at room temperature for 3 hours. The reaction mixture was diluted with chloroform and washed with saturated aqueous sodium hydrogencarbonate and saturated brine in that order. The organic layer was dried (anhydrous sodium sulfate) and concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (10 g NH Silica Chromatorex DM2035, hexane:ethyl acetate=7:3-1:1) to obtain the title compound as a colorless oil (194 mg, 0.26 mmol) (67% yield).

reactant | methyl 2-formylbenzoate | 1.55 mmol, 254 mg | C(=O)C1=C(C(=O)OC)C=CC=C1 | C9H8O3
reactant | acetic acid | 1.55 mmol, 89 μL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.25 mmol, 265 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | N-[1-[2-[1-(2-aminoethyl)cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide | 0.52 mmol, 226 mg | NCCC1(CCCCC1)CCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=CC=C(C=C1)C | C27H39N3O2
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-[1-[2-[1-[2-(1-Oxo-2-isoindolinyl)ethyl]cyclohexyl]ethyl]piperidin-4-yl]-N-(p-tolyl)-2-furancarboxamide | 0.26 mmol, 194 mg, 67% yield | O=C1N(CC2=CC=CC=C12)CCC1(CCCCC1)CCN1CCC(CC1)N(C(=O)C=1OC=CC1)C1=CC=C(C=C1)C | C35H43N3O3
